US20010020034A1
To a solution of of 2-cyano-thioacetimidic acid 4-methoxy-benzyl ester (42 g, 0.19 mol) in 191 mL of ethyl acetate at 0° C. was added phenoxycarbonylisothiocyanate (34 g, 0.19 mol), and the mixture was stirred at 0° C. for 24 hours. The mixture was diluted with ether and filtered. The solids were washed with ether, collected and dried in vacuo, affording 56 g (73%) of 2-cyano-3-mercapto-3-phenoxycarbonylamino-thioacrylimidic acid 4-methoxy-benzyl ester as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 12.81 (s, 1H), 9.01 (s, 1H), 8.68 (s, 1H) 7.28-6.99 (m, 7H), 6.69 (d, 2H, J=8.8 Hz), 4.17 (s, 2H), 3.64 (s, 3H) ppm; MS (APCl, m/z): 400 [M+H]+.

reactant | 2-cyano-thioacetimidic acid 4-methoxy-benzyl ester | 0.19 mol, 42 g | COC1=CC=C(CSC(CC#N)=N)C=C1 | C11H12N2OS
reactant | phenoxycarbonylisothiocyanate | 0.19 mol, 34 g | O(C1=CC=CC=C1)C(=O)N=C=S | C8H5NO2S
solvent | ethyl acetate | 191 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 2-cyano-3-mercapto-3-phenoxycarbonylamino-thioacrylimidic acid 4-methoxy-benzyl ester | 56 g, 73% | COC1=CC=C(CSC(C(=C(NC(=O)OC2=CC=CC=C2)S)C#N)=N)C=C1 | C19H17N3O3S2
